US04521341
It must be described as extremely suprising that the reaction of 1-amino-4-bromo-anthraquinone-2-sulphonic acid with ammonia in water under the reaction conditions employed, under pressure, should take place so uniformly and smoothly to give 1,4-diamino-anthraquinone-2-sulphonic acid, without the formation of significant amounts of 1-amino-4-hydroxy-anthraquinone-2-sulphonic acid, as reported in German Patent Specification No. 1,142,174.

reactant | 1-amino-4-bromo-anthraquinone-2-sulphonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br)S(=O)(=O)O | C14H8BrNO5S
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 1,4-diamino-anthraquinone-2-sulphonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)S(=O)(=O)O | C14H10N2O5S
